US03956310
5.5 Parts of 7.14-diazadispiro[5.1.5.2]pentadecan-15-one, 2.1 parts of hexamethylene diisocyanate and a trace of 1,4-diazabicyclo[2.2.2]octane in 150 parts of dry benzene were refluxed for 48 hours. The solvent was removed in vacuo and the solid material stirred in 150 parts of water for 30 minutes. The solid was filtered and recrystallised from ethanol to give hexane-1',6'-bis[14-carbamoyl-7,14-diaza dispiro5.1.5.2]pentadecan-15-one] of melting point 164° to 165°C. This material gave the following elemental analysis by weight.

reactant | 7.14-diazadispiro[5.1.5.2]pentadecan-15-one | C1CCCCC12NC1(CCCCC1)NC2=O | C13H22N2O
reactant | hexamethylene diisocyanate | C(CCCCCN=C=O)N=C=O | C8H12N2O2
reactant | 1,4-diazabicyclo[2.2.2]octane | N12CCN(CC1)CC2 | C6H12N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | pentadecan-15-one | CCCCCCCCCCCCCCC=O | C15H30O
